US07253286B2
4-(4-Aminophenoxy)-6-cyano-7-(2-methoxyethoxy)quinoline
6-Cyano-7-(2-methoxyethoxy)-4-(4-nitrophenoxy)quinoline (1.8 g), iron (1.8 g) and ammonium chloride (3.6 g) were suspended in an ethanol (30 ml)—water (7 ml) mixed solvent and the suspension was heated and stirred at 80° C. for 2 hours. After completion of the reaction, the reaction mixture was filtered with celite and washed in ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate and concentrated. The obtained solid was washed with ether and dried to obtain 1.2 g of the title compound.

reactant | 6-Cyano-7-(2-methoxyethoxy)-4-(4-nitrophenoxy)quinoline | 1.8 g | C(#N)C=1C=C2C(=CC=NC2=CC1OCCOC)OC1=CC=C(C=C1)[N+](=O)[O-] | C19H15N3O5
reactant | ammonium chloride | 3.6 g | [Cl-].[NH4+]
reactant | ethanol | 30 ml | C(C)O | C2H6O
catalyst | iron | 1.8 g | [Fe] | Fe
solvent | water | 7 ml | O | H2O
product | 4-(4-Aminophenoxy)-6-cyano-7-(2-methoxyethoxy)quinoline | 1.2 g | NC1=CC=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OCCOC)C=C1 | C19H17N3O3
